US04060528
A mixture of 29.7 parts of diethyl 2-[3-chloro-4-(2-thenoyl)phenyl]-2-methylmalonate and 200 parts of sodium hydroxide solution 5% is stirred and refluxed for 5 hours. The reaction mixture is cooled and washed twice with 80 parts of benzene. The aqueous phase is acidified with concentrated hydrochloric acid solution and the product is extracted with chloroform. The extract is dried, filtered and evaporated. The oily residue is dissolved in 160 parts of ether. This solution is stirred with activated charcoal, filtered and evaporated. The oily residue is purified by column-chromatography, using a mixture of chloroform and 5% of methanol. The pure fractions are collected and the solvent is evaporated. The oily residue which solidifies on standing, is triturated in a mixture of benzene and petroleumether, yielding 3-chloro-4-(2-thenoyl)-hydratropic acid; mp. 82.5° C; also named 3-chloro-4-(2-thenoyl)-α-methyl-phenylacetic acid.

reactant | diethyl 2-[3-chloro-4-(2-thenoyl)phenyl]-2-methylmalonate | ClC=1C=C(C=CC1C(C1=CC=CS1)=O)C(C(=O)OCC)(C(=O)OCC)C | C19H19ClO5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-chloro-4-(2-thenoyl)-hydratropic acid | ClC=1C=C(C(C(=O)O)C)C=CC1C(C1=CC=CS1)=O | C14H11ClO3S
